US09260427B2
A stirred solution of (S)-tert-butyl 2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoate INT-9 (1.34 g, 2.74 mmol) and 4-(tert-butyl)benzoic acid (0.54 g, 3.01 mmol) in DMF (5 mL) and N-ethyl-N-isopropylpropan-2-amine (1.01 ml, 5.47 mmol) was treated with HATU (1.09 g, 2.87 mmol). After stirring for 1 h, the mixture was treated with water (60 mL) and iso-hexanes (20 mL) and stirred for 1 h. The product was collected by filtration, washed with water (3×10 mL) then iso-hexanes (10 mL) and dried in the vacuum oven. The ester was taken up in DCM (5 mL) and treated with TFA (5 mL). After 2 h, the mixture was treated with toluene (5 mL) and evaporated. The residue was taken up in DMSO (6 mL) then treated with water (20 mL) and stirred for 1 h. The product was collected by filtration, washed with water (3×15 mL) then acetonitrile (2×5 mL), and dried in the vacuum oven to give 1.40 g (85%) of (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid Compound 85 as a white solid. LCMS-ESI (m/z) calculated for C37H43N3O4; 593.3. found: 594.0 [M+H]+, tR=11.18 min (Method 9) and 97% e.e. (Chiral Method). 1H NMR (400 MHz, DMSO-d6) δ 12.79 (br, s, 1H), 9.16 (s, 2H), 8.66 (d, J=8.2 Hz, 1H), 8.45-8.27 (m, 2H), 7.89-7.69 (m, 4H), 7.57-7.38 (m, 4H), 7.18-7.02 (m, 2H), 4.77-4.62 (m, 1H), 4.03 (t, J=6.5 Hz, 2H), 3.30-3.24 (m, 1H), 3.22-3.12 (m, 1H), 1.80-1.68 (m, 2H), 1.48-1.20 (m, 17H), 0.96-0.82 (m, 3H).

reactant | (S)-tert-butyl 2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoate | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C30H39N3O3
reactant | 4-(tert-butyl)benzoic acid | 3.01 mmol, 0.54 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 5.47 mmol, 1.01 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.87 mmol, 1.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid | 1.40 g, 85% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C37H43N3O4
